US04555581
4.5 g (0,033 Mol) AlCl3 are added to 100 g (1 Mol) ethylacrylate and dissolved with stirring. 68 g (1 Mol) furane is then added drop-wise, during cooling to 20° to 25° C. After one hour, the exothermic reaction is terminated, followed by stirring for one hour at 25° C. and 30 g water is added. The organic phase is separated. First, the non-converted furane and ethylacrylate is distilled off under a pressure of 10 Torr. The 2-carbomethoxy-7-oxabicyclo(2.2.1)hept-5-ene boils at 60° C. and is obtained in a yield of 67.2 g (40% theoretical).

reactant | AlCl3 | 0,033 Mol, 4.5 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | ethylacrylate | 1 Mol, 100 g | C(C)OC(C=C)=O | C5H8O2
reactant | furane | 1 Mol, 68 g | O1C=CC=C1 | C4H4O
product | 2-carbomethoxy-7-oxabicyclo(2.2.1)hept-5-ene | C(=O)(OC)C1C2C=CC(C1)O2 | C8H10O3
